US05760035
A mixture of 4-chlorophenol (100 g), 1-bromo-2-chloroethane (335 g), potassium carbonate (129 g) and acetone (2 l) was boiled under reflux with stirring for 18 hours. The mixture was evaporated to dryness under reduced pressure and then dichloromethane was added to the cool residue. The mixture was filtered and the filtrate washed with 5M sodium hydroxide solution, water, dried, filtered and evaporated to give 2-chloroethyl 4-chlorophenyl ether as an oil.

reactant | 4-chlorophenol | 100 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 1-bromo-2-chloroethane | 335 g | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 129 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 l | CC(=O)C | C3H6O
product | 2-chloroethyl 4-chlorophenyl ether | ClC1=CC=C(C=C1)OCCCl | C8H8Cl2O
